US04906285
Preparation of methylthioethyl 2,6-bis[(4,6-dimethoxypyrimidin-2-yl)oxy]benzoate (Compound No. 2)
Methylthioethyl 2,6-dihydroxybenzoate (4.5 g) was dissolved in DMF, and 60% sodium hydride (1.6 g) was added thereto. Then, 2 chloro-4,6-dimethoxypyrimidine (3.5 g) was added thereto, and the mixture was heated and reacted at a temperature within a range of from 90° to 10° C. for two hours. The reaction solution was poured into ice water and then extracted twice with ethyl acetate. The ethyl acetate layer was washed with water and dried over anhydrous sodium sulfate. After removing inorganic substances by filtration, the solvent was distilled off under reduced pressure. The residue was purified by column chromatography to obtain the above identified compound as a colorless viscous liquid. (ηD20 : 1.5706).

reactant | Methylthioethyl 2,6-dihydroxybenzoate | 4.5 g | OC1=C(C(=O)OCCSC)C(=CC=C1)O | C10H12O4S
reactant | sodium hydride | 1.6 g | [H-].[Na+]
reactant | chloro-4,6-dimethoxypyrimidine | 3.5 g | ClC1=NC(=CC(=N1)OC)OC | C6H7ClN2O2
solvent | DMF | CN(C)C=O | C3H7NO
product | methylthioethyl 2,6-bis[(4,6-dimethoxypyrimidin-2-yl)oxy]benzoate | COC1=NC(=NC(=C1)OC)OC1=C(C(=O)OCCSC)C(=CC=C1)OC1=NC(=CC(=N1)OC)OC | C22H24N4O8S
